US07642361B2
4-(4-tert-Butyl-phenyl)-2-ethyl-5-(2H-[1,2,4]triazol-3-yl)-thiophene-3-carbonitrile
Dissolve 3-(4-tert-butyl-phenyl)-4-cyano-5-ethyl-thiophene-2-carboxylic acid dimethylaminomethyleneamide (261 mg, 0.71 mmol) in 2 mL of glacial acetic acid, add hydrazine monohydrate (50 μL, 1.03 mmol) and heat to 90° C. under nitrogen. After 90 minutes cool the reaction slightly, pour into 50 mL of ice-water and stir for twenty minutes. Filter off the resulting solid and rinse with 10 mL of water. Vacuum-dry overnight to give the title compound, 206 mg (86%). MS(ES+, m/e)=337 (M++1); HPLC=00%.

reactant | 3-(4-tert-butyl-phenyl)-4-cyano-5-ethyl-thiophene-2-carboxylic acid dimethylaminomethyleneamide | 0.71 mmol, 261 mg | CN(C)C=NC(=O)C=1SC(=C(C1C1=CC=C(C=C1)C(C)(C)C)C#N)CC | C21H25N3OS
reactant | hydrazine monohydrate | 1.03 mmol, 50 μL | O.NN
solvent | acetic acid | 2 mL | C(C)(=O)O | C2H4O2
product | 4-(4-tert-Butyl-phenyl)-2-ethyl-5-(2H-[1,2,4]triazol-3-yl)-thiophene-3-carbonitrile | C(C)(C)(C)C1=CC=C(C=C1)C=1C(=C(SC1C=1NN=CN1)CC)C#N | C19H20N4S
